*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZS350ARA411MHA0G
*//   Date        : 2020/12/23
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZS350ARA411MHA0G_20deg-C 1 2

C1 4 2 1.02e-04
C2 5 2 2.46e-04
C3 6 2 1.82e-05
R1 3 4 6.63e-02
R2 4 5 3.70e-02
R3 5 6 2.15e+01
L1 1 3 3.90e-09

.ENDS

.SUBCKT EMZS350ARA411MHA0G_-55deg-C 1 2

C1 4 2 8.64e-07
C2 5 2 4.43e-05
C3 6 2 2.75e-04
R1 3 4 6.43e-01
R2 4 5 1.77e-01
R3 5 6 4.30e-01
L1 1 3 3.90e-09

.ENDS

.SUBCKT EMZS350ARA411MHA0G_105deg-C 1 2

C1 4 2 2.92e-04
C2 5 2 9.42e-05
C3 6 2 3.64e-05
R1 3 4 3.45e-02
R2 4 5 9.60e-02
R3 5 6 9.59e+00
L1 1 3 3.90e-09

.ENDS
*$
